US03985760
c. N-butyl-3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-amine
12.2 g. of 4-chloro-3methyl-6-phenylisoxazolo[5,4-b]-pyridine (0.05 mol.) are added to 150 ml. of n-butylamine. The reaction mixture is heated at 150°-160° for 3 hours in an autoclave and, after cooling to room temperature, is evaported in vacuo. The residue is treated with water, filtered off and dried. 14.1 g. (100%) of N-butyl-3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-amine are recrystallized from a mixture of ligroin and ethylacetate (3:1), m.p. 126°-127°.

reactant | 4-chloro-3methyl-6-phenylisoxazolo[5,4-b]-pyridine | 0.05 mol | ClC1=C2C(=NC(=C1)C1=CC=CC=C1)ON=C2C | C13H9ClN2O
reactant | n-butylamine | C(CCC)N | C4H11N
solvent | water | O | H2O
product | N-butyl-3-methyl-6-phenylisoxazolo[5,4-b]pyridin-4-amine | C(CCC)NC=1C2=C(N=C(C1)C1=CC=CC=C1)ON=C2C | C17H19N3O
